data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_688189_2,[C:1]1([N:5]([H:11])[H:12])([H:10])[C:2]([H:13])([H:14])[C:4]([C:3](=[C:7]([H:16])[H:17])[O:8][H:9])=[C:6]1[H:15]>>[C:1](\[N:5]([H:11])[H:12])(=[C:6](/[C:4](=[C:2]([H:13])[H:14])[C:3](=[C:7]([H:16])[H:17])[O:8][H:9])[H:15])[H:10],20.47720749998476
MR_587234_0,[C:1]([C:2]([C:4]([H:19])([H:20])[H:21])([O:8][H:10])[O:9][H:11])([N:5]([H:12])[H:13])([N:6]([H:14])[H:15])[O:7][C:3]([H:16])([H:17])[H:18]>>[C:1]([C@:2]([C:4]([H:19])([H:20])[H:21])([O:7][C:3]([H:16])([H:17])[H:18])[O:8][H:10])([N:5]([H:12])[H:13])([N:6]([H:14])[H:15])[O:9][H:11],61.01056999998292
MR_162222_1,[C:1]1([N:5]([H:9])[H:10])([H:8])[C:4]([C:3]([H:14])([H:15])[H:16])([O:7][C:2]([H:11])([H:12])[H:13])[C:6]1([H:17])[H:18]>>[C:1]([C:4]([C:3]([H:14])([H:15])[H:16])=[C:6]([H:17])[H:18])([N:5]([H:9])[H:10])([O:7][C:2]([H:11])([H:12])[H:13])[H:8],40.68835500003488
MR_533500_0,[C:1]([N:3]([C:2]([H:12])([H:13])[H:14])[O:6][H:7])([O:5][N:4]([H:8])[H:9])([H:10])[H:11]>>[C:1]([N:3]([C:2]([H:12])([H:13])[H:14])[O:5][N:4]([H:8])[H:9])([O:6][H:7])([H:10])[H:11],65.58943750005056
MR_329631_1,[C:1](/[C:4]([N:5]([H:11])[H:12])=[C:6](\[C:3]([H:17])([H:18])[H:19])[H:13])([O:7][C:2]([H:14])([H:15])[H:16])([O:8][H:9])[H:10]>>[C:1](=[C:4](\[N:5]([H:11])[H:12])[C:6]([C:3]([H:17])([H:18])[H:19])([O:7][C:2]([H:14])([H:15])[H:16])[H:13])(\[O:8][H:9])[H:10],63.97550750002338
MR_578855_1,[C:1]([C:2]([O:7][H:11])=[O:8])([C:3]([N:5]([H:14])[H:15])=[O:9])([N:4]([H:12])[H:13])[O:6][H:10]>>[C:1](=[C:3](/[N:5]([H:14])[H:15])[O:9][C:2]([O:7][H:11])=[O:8])(\[N:4]([H:12])[H:13])[O:6][H:10],69.30862999993451
MR_393733_2,[C@:1]1([O:6][H:8])([H:9])/[C:3](=[N:7]/[C:2]([H:10])([H:11])[H:12])[C:4]1=[C:5]([H:13])[H:14]>>[C:1]([C:3]1[C:4](=[C:5]([H:13])[H:14])[N:7]1[C:2]([H:10])([H:11])[H:12])([O:6][H:8])[H:9],43.027675000014085
MR_250389_0,[C:1]([C:3]([O:6][H:9])=[O:8])([N:4]([H:11])[H:12])(/[C:5](=[N:7]/[C:2]([H:14])([H:15])[H:16])[H:13])[H:10]>>[C:1](\[N:4]([H:11])[H:12])(=[C:5](\[N:7]([C:2]([H:14])([H:15])[H:16])[C:3]([O:6][H:9])=[O:8])[H:13])[H:10],57.93644749996844
MR_540983_1,[C:1]([N:2]([H:9])[H:10])([C:3](=[O:7])[H:11])([C:4](=[C:5]([H:13])[H:14])[H:12])[O:6][H:8]>>[C:1](\[N:2]([H:9])[H:10])(=[C:4](/[C:5]([C:3](=[O:7])[H:11])([H:13])[H:14])[H:12])[O:6][H:8],51.15191750001216
MR_254591_0,[C:1]([C:3]([H:13])([H:15])[H:16])([C:4]([H:14])([H:17])[H:18])(/[C:7]([C:6]([H:22])([H:23])[H:24])=[N:9]/[C:5]([H:19])([H:20])[H:21])[O:8][C:2]([H:10])([H:11])[H:12]>>[C:1]1([C:3]([H:13])([H:15])[H:16])([C:4]([H:14])([H:17])[H:18])[C:7]([C:6]([H:22])([H:23])[H:24])([O:8][C:2]([H:10])([H:11])[H:12])[N:9]1[C:5]([H:19])([H:20])[H:21],69.68826749997476
MR_636595_1,[C:1]1([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[N:8]([C:3]([H:12])([H:13])[H:14])/[C:9]1=[N:10]\[C:2]([C:6]([H:21])([H:22])[H:23])([C:7]([H:24])([H:25])[H:26])[H:11]>>[C:1]1([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])/[C:9](=[N:8]\[C:3]([H:12])([H:13])[H:14])[N:10]1[C:2]([C:6]([H:21])([H:22])[H:23])([C:7]([H:24])([H:25])[H:26])[H:11],39.48292750001073
MR_661465_1,[C:1]([O:6]/[C:3](=[C:4](\[C:2]([H:14])([H:15])[H:16])[O:7][H:8])[N:5]([H:9])[H:10])([H:11])([H:12])[H:13]>>[C:1]([C:4]([C:2]([H:14])([H:15])[H:16])([C:3]([N:5]([H:9])[H:10])=[O:6])[O:7][H:8])([H:11])([H:12])[H:13],58.60410749999488
MR_87975_0,[C:1]([N:3](/[C:4](=[C:5](\[C:2]([H:14])([H:15])[H:16])[O:7][H:9])[O:6][H:8])[H:10])([H:11])([H:12])[H:13]>>[C:1]([N:3]([C:5]([C:2]([H:14])([H:15])[H:16])=[C:4]([O:6][H:8])[O:7][H:9])[H:10])([H:11])([H:12])[H:13],47.82240250000044
MR_434970_0,[C@:1]1([O:6][H:8])([H:9])[C@@:4]([C:3]([C:2]([H:11])([H:12])[H:13])=[O:7])([H:10])[C:5]1([H:14])[H:15]>>[C:1]([C:4]([C:3]([C:2]([H:11])([H:12])[H:13])=[O:7])=[C:5]([H:14])[H:15])([O:6][H:8])([H:9])[H:10],72.54088250001345
MR_590280_0,[C:1]1([C:3]([H:13])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])[C:2]([H:9])([H:10])[C:7]([H:12])=[C:6]([H:11])[N:5]1[H:8]>>[C:1]1([C:3]([H:13])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])[C:2]([H:9])([H:10])[C:7]1(/[C:6](=[N:5]/[H:8])[H:11])[H:12],60.108852500012375
MR_561546_1,[N:1]([N:3]([H:9])[H:10])([C:4]1([H:11])[C:2](=[O:6])[O:7]1)[O:5][H:8]>>[N:1]([N:3]([H:9])[H:10])([C:4]([C:2](=[O:6])[H:11])=[O:7])[O:5][H:8],42.917235000007565
MR_368066_0,[C:1]([C:2](=[C:3]([N:4]([H:10])[H:11])[N:5]([H:9])[H:12])[O:7][C:6](=[O:8])[H:13])([H:14])([H:15])[H:16]>>[C:1]([C:2]1([C:3]([N:4]([H:10])[H:11])([N:5]([H:9])[H:12])[H:13])[C:6](=[O:8])[O:7]1)([H:14])([H:15])[H:16],71.42330499998153
MR_130515_0,[C:1]([C:2]([H:12])([H:13])[H:14])([C:4]([C:3]([H:15])([H:16])[H:17])=[C:7]([H:18])[H:19])([N:5]([H:8])[H:9])[N:6]([H:10])[H:11]>>[C:1]1([C:2]([H:12])([H:13])[H:14])([N:5]([H:8])[H:9])[C:4]([C:3]([H:15])([H:16])[H:17])([N:6]([H:10])[H:11])[C:7]1([H:18])[H:19],68.61273250001503
MR_219555_0,[C:1]([C:2]([H:14])([H:15])[H:16])([O:6][N:3]([C:4]([N:5]([H:12])[H:13])=[O:8])[H:10])([O:7][H:9])[H:11]>>[C:1]([C:2]([H:14])([H:15])[H:16])([O:6][N:3]([C:4]([N:5]([H:12])[H:13])([O:8][H:9])[H:11])[H:10])=[O:7],60.88193249998668
